US06972295B2
Step A. Ethyl 3-(4-chlorophenyl)-2-indolin-N-ylpropanoate.
In an oven-dried flask under an atmosphere of nitrogen, 1.1 g LiOH.H2O (26.25 mmol) in DMF (20 mL) was added to a stirring suspension of 4 angstrom molecular sieves. After 30 minutes of stirring at room temperature 2.8 mL (25 mmol) indoline was added dropwise. After one hour at room temperature 2.9 mL (26.25 mmol) Ethyl bromoacetate was added dropwise. After 1.5 h the solid material was filtered and the residue was washed with copious amounts of EtOAc. The organics were washed 3 times with water and the organic material was dried over MgSO4. The solvents were evaporated under reduced pressure. The crude material was then dissolved in 75 mL anhydrous THF, charged into an oven dried round bottom under an atmosphere of nitrogen, cooled to −78° C., and then treated with 26.25 mL a 1M solution of NaHMDS. The solution was allowed to stir for 30 minutes at −78° C. after which the enolate was quenched with 5.4 g (26.25 mmol) of parachlorobenzyl bromide (solution in 25 mL anhydrous THF). The reaction was allowed to warm to room temperature overnight. The next day the reaction was quenched with water. The aqueous layer was extracted with 3 large portions of EtOAc. The combined organics were dried over MgSO4. The solvents were removed under reduced pressure and the residue was purified by flash chromatography which yielded the title compound as a yellow oil. LC/MS m/e=331 (M+1). TLC Rf=0.22 (20:1 hexanes:EtOAc). 1H NMR (500 MHz, CDCl3): δ 1.11 (t, J=3.55 Hz, 3H), 2.96 (m, 2H), 3.06 (m, 1H), 3.25 (m, 1H), 3.60 (t, 2H), 4.07 (m, 2H), 4.36 (t, J=3.75 Hz, 1H).

reactant | LiOH.H2O | 26.25 mmol, 1.1 g | O[Li].O
reactant | indoline | 25 mmol, 2.8 mL | N1CCC2=CC=CC=C12 | C8H9N
reactant | Ethyl bromoacetate | 26.25 mmol, 2.9 mL | BrCC(=O)OCC | C4H7BrO2
reactant | parachlorobenzyl bromide | 26.25 mmol, 25 mL, 5.4 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-(4-chlorophenyl)-2-indolin-N-ylpropanoate | ClC1=CC=C(C=C1)CC(C(=O)OCC)N1CCC2=CC=CC=C12 | C19H20ClNO2
